US04022833
In a manner similar to that of Example 1, condensation of 1-hexene oxide (34.8 g.) and 1,10-decanediamine (30 g.) and recrystallization of the resulting product from isopropyl alcohol gave N,N'-(1,10-decylene)-bis[2-hydroxyhexylamine] (I: R= CH3 (CH2)3R' = H, X= (CH2)10, Z= H) (8.9 g., m.p. 127.0°-137.0° C.).

reactant | 1-hexene oxide | 34.8 g | C1C(CCCC)O1 | C6H12O
reactant | 1,10-decanediamine | 30 g | C(CCCCCCCCCN)N | C10H24N2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | N,N'-(1,10-decylene)-bis[2-hydroxyhexylamine] | 8.9 g | C(CCCCCCCCCNCC(CCCC)O)NCC(CCCC)O | C22H48N2O2
